US07674803B2
Methyl 2-(2-nitrobenzenesulfonylamino)propionate
DL-Alanine methyl ester hydrochloride (13.96 g; 0.1 mol) is dissolved in 800 ml of dichloromethane and placed at 0° C. Triethylamine (2.3 eq.; 230 mmol; 32 ml) is added dropwise, along with portionwise addition of 2-nitrobenzenesulfonyl chloride (1 eq.; 100 mmol; 22.16 g), and the reaction medium is allowed to return to room temperature overnight. The reaction medium is washed with water and then dried over sodium sulfate, filtered through silica and evaporated to dryness to give 25.3 g of solid corresponding to the title compound.

reactant | DL-Alanine methyl ester hydrochloride | 0.1 mol, 13.96 g | Cl.COC(C(N)C)=O
reactant | Triethylamine | 230 mmol, 32 ml, 2.3 eq. | C(C)N(CC)CC | C6H15N
reactant | 2-nitrobenzenesulfonyl chloride | 100 mmol, 22.16 g, 1 eq. | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClNO4S
solvent | dichloromethane | 800 ml | ClCCl | CH2Cl2
product | Methyl 2-(2-nitrobenzenesulfonylamino)propionate | 25.3 g, Yield: 88% | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)NC(C(=O)OC)C | C10H12N2O6S
